US04456509
The compound 4-hydroxy-3,5-di-tert.-butyl dithiobenzoic acid was prepared by dissolving 2,6 -di-tert.-butyl phenol (20.6 g) in dimethylsulfoxide (60 cm3). To this well stirred solution under a nitrogen blanket was added KOH (5.6 g) dissolved in a minimum amount of water. After the addition was completed carbon disulfide (7.6 g) was added while maintaining the temperature between 20°-25° C. The mixture was maintained at this temperature for 1 hour, then at 60° C. for 2 hours, cooled and poured into water (250 cm.3). After acidification (10% HCl), extraction into diethyl ether and drying over Na2SO4 the product was isolated by rotoevaporation.

reactant | 2,6 -di-tert.-butyl phenol | 20.6 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | KOH | 5.6 g | [OH-].[K+]
reactant | carbon disulfide | 7.6 g | C(=S)=S | CS2
solvent | dimethylsulfoxide | 60 cm3 | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-hydroxy-3,5-di-tert.-butyl dithiobenzoic acid | OC1=C(C=C(C(=S)S)C=C1C(C)(C)C)C(C)(C)C | C15H22OS2
